US07199147B2
To a solution of the 1H-indazol-5-ol (100 mg, 0.745 mmol) obtained in Reference Example 4 in N,N-dimethylformamide (2 ml) were added 1-bromo-4-methylpentane (0.109 ml, 0.745 mmol), tetrabutylammonium iodide (28 mg, 0.1 mmol) and potassium carbonate (103 mg, 0.745 mmol), and the resulting mixture was heated to 60° C. After 9 hours, the mixture was poured into water (20 ml) and extracted with ethyl acetate (20 ml×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 5-[(4-methylpentyl)oxy]-1H-indazole (60 mg, 37%).

reactant | 1H-indazol-5-ol | 0.745 mmol, 100 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | 1-bromo-4-methylpentane | 0.745 mmol, 0.109 ml | BrCCCC(C)C | C6H13Br
reactant | potassium carbonate | 0.745 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.1 mmol, 28 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[(4-methylpentyl)oxy]-1H-indazole | 60 mg, 37% | CC(CCCOC=1C=C2C=NNC2=CC1)C | C13H18N2O
